US03950528
3-Amino-1-(2-methylbenzyl)-pyrazol-5-one ##SPC28##
27.5 g of o-methylbenzylhydrazine, dissolved in 100 ml of ethanol, were added dropwise at room temperature to a solution of 32 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1.5 g of p-toluenesulphonic acid in 300 ml of ethanol. After standing overnight, the reaction solution was concentrated in vacuo and the compound identified above, which separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 138°, 15 g (37%).

reactant | o-methylbenzylhydrazine | 27.5 g | CC1=C(CNN)C=CC=C1 | C8H12N2
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 32 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 3-Amino-1-(2-methylbenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=C(C=CC=C1)C | C11H13N3O
